US07101871B2
Step B: tert-Butyl 4-[(benzyloxy)methyl]hexahydro-2-methylene-3-oxo-1,4-diazepine-1-carboxylate
The title was prepared from tert-butyl 4-[(benzyloxy)methyl]hexahydro-3-oxo-1H-1,4-diazepine-1-carboxylate and benzyl chloromethyl ether essentially following the procedure described in Example 3, Step 1.

reactant | tert-butyl 4-[(benzyloxy)methyl]hexahydro-3-oxo-1H-1,4-diazepine-1-carboxylate | C(C1=CC=CC=C1)OCN1C(CN(CCC1)C(=O)OC(C)(C)C)=O | C18H26N2O4
reactant | benzyl chloromethyl ether | ClCOCC1=CC=CC=C1 | C8H9ClO
product | tert-Butyl 4-[(benzyloxy)methyl]hexahydro-2-methylene-3-oxo-1,4-diazepine-1-carboxylate | C(C1=CC=CC=C1)OCN1C(C(N(CCC1)C(=O)OC(C)(C)C)=C)=O | C19H26N2O4
